US09102625B2
To a mixture of 6-chloro-4-(1-phenylcyclopropylamino)nicotinamide (150 mg, 0.522 mmol) in p-Dioxane (4.5 mL) was added tert-butyl 4-(3-aminophenyl)piperazine-1-carboxylate (174 mg, 0.626 mmol), Pd(OAc)2 (23 mg, 0.104 mmol), BINAP (65 mg, 0.104 mmol) and Cs2CO3 (510 mg, 1.566 mmol). After stirred at 80° C. for 15 h, it was concentrated to give crude residue, which was then treated with TFA in DCM, 30 min later, the solution was concentrated, the residue was purified by preparative HPLC to give 4-(1-phenylcyclopropylamino)-6-(3-(piperazin-1-yl)phenylamino)nicotinamide. MS found for C25H28N6O as (M+H)+ 429.4. UV: λ=254.6 nm. 1H NMR: (CD3OD) δ 8.17 (s, 1H), 7.31-7.20 (m, 4H), 7.13 (m, 2H), 6.95 (dd, J=8.0, 2.0 Hz, 1H), 6.79 (t, J=2.0 Hz, 1H), 6.60 (dd, J=7.2, 2.0 Hz, 1H), 6.12 (s, 1H), 3.34 (m, 8H), 1.36 (m, 4H) ppm.

reactant | 6-chloro-4-(1-phenylcyclopropylamino)nicotinamide | 0.522 mmol, 150 mg | ClC1=NC=C(C(=O)N)C(=C1)NC1(CC1)C1=CC=CC=C1 | C15H14ClN3O
reactant | tert-butyl 4-(3-aminophenyl)piperazine-1-carboxylate | 0.626 mmol, 174 mg | NC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
reactant | BINAP | 0.104 mmol, 65 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 1.566 mmol, 510 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | p-Dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.104 mmol, 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(1-phenylcyclopropylamino)-6-(3-(piperazin-1-yl)phenylamino)nicotinamide | C1(=CC=CC=C1)C1(CC1)NC1=CC(=NC=C1C(=O)N)NC1=CC(=CC=C1)N1CCNCC1 | C25H28N6O
